US08492388B2
To a stirred solution of [3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methanone (3.84 g, 17 mmol) in dry pyridine (30 mL) was added hydroxylamine hydrochloride (2.89 g, 42 mmol). The reaction mixture was stirred at 70° C. for 6 h, then concentrated in vacuo and diluted with ethyl acetate (100 mL) and water (50 mL). The organic layer was separated, washed with water (50 mL) and dried over MgSO4. Evaporation of the solvent in vacuo afforded 3-[(hydroxyimino)(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline as a yellow solid [4.48 g, yield 99.6%; HPLC/MS:m/z=247 (M+H); log P(HCOOH)=1.17].

reactant | [3-(dimethylamino)phenyl](1-methyl-1H-tetrazol-5-yl)methanone | 17 mmol, 3.84 g | CN(C=1C=C(C=CC1)C(=O)C1=NN=NN1C)C | C11H13N5O
reactant | hydroxylamine hydrochloride | 42 mmol, 2.89 g | Cl.NO
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 3-[(hydroxyimino)(1-methyl-1H-tetrazol-5-yl)methyl]-N,N-dimethylaniline | yield 99.6% | ON=C(C=1C=C(N(C)C)C=CC1)C1=NN=NN1C | C11H14N6O
